US03966936
In like manner, 1-chloro-6,7-diethoxyisoquinoline and 1-(piperidinocarbonyl)piperazine react to afford 1-(4-piperidinocarbonyl-1-piperazinyl)-6,7-diethoxyisoquinoline, while 4-chloro-6,7-dimethoxyquinazoline and 1-(piperidinocarbonyl)piperazine react to afford 4-(4-piperidinocarbonyl-1-piperazinyl)-6,7-dimethoxyquinazoline respectively. The latter compound is, of course, identical in every respect with the product of Example V.

reactant | 1-chloro-6,7-diethoxyisoquinoline | ClC1=NC=CC2=CC(=C(C=C12)OCC)OCC | C13H14ClNO2
reactant | 1-(piperidinocarbonyl)piperazine | N1(CCCCC1)C(=O)N1CCNCC1 | C10H19N3O
product | 1-(4-piperidinocarbonyl-1-piperazinyl)-6,7-diethoxyisoquinoline | N1(CCCCC1)C(=O)N1CCN(CC1)C1=NC=CC2=CC(=C(C=C12)OCC)OCC | C23H32N4O3
